US04209625
A mixture of 2.4 g of 6-chloro-1'-methylspiro[indoline-3,4'-piperidine], Example 23 b, 5.4 g of 2-fluoronitrobenzene and 1.0 g of sodium bicarbonate is stirred at 160°-165° C. under nitrogen, for 16 hours. Thereafter, the mixture is permitted to cool before sequentially being quenched with water and extracted thrice with ether. The combined ether extracts are shaken with a large excess of 1 N hydrochloric acid. The acidified layer is basified providing a reddish oil which upon drying over magnesium sulfate and then cooling leaves an orange solid. The solid is recrystallized from an etherpentane mixture to provide prisms, mp 130°-131° C. of 6-chloro-1'-methyl-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine].

reactant | 6-chloro-1'-methylspiro[indoline-3,4'-piperidine] | 2.4 g | ClC1=CC=C2C(=C1)NCC21CCN(CC1)C | C13H17ClN2
reactant | 2-fluoronitrobenzene | 5.4 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
product | 6-chloro-1'-methyl-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine] | ClC1=CC=C2C(=C1)N(CC21CCN(CC1)C)C1=C(C=CC=C1)[N+](=O)[O-] | C19H20ClN3O2
